US05958935
4-Chloro-6-methyl-N-(3,4,5-trimethoxyphenyl)pyrimidine-2-amine (b)
6-Methyl-2-(3,4,5-trimethoxyphenylamino)-4(3H)pyrimidinone (1.0 g, 3.63 mmol) was dissolved in phosphoryl chloride and heated to 100° for 2 h. The mixture was cooled to room temperature and evaporated in vacuo to a viscous oil. The oil was dissolved in CH2CH2 (50 ml) and washed twice with saturated aqueous NaHCO3, the organic phases dried (MgSO4) and concentrated in vacuo. The residue was subjected to column chromatography (silica, 2% methanol/CH2CH2) to afford the title compound as an off white solid (1.03 g). A small amount was recrystallised from ethyl acetate to give fine off-white needles. m.p. 195-196°. δH (CDCl3) 2.40 (3H, s), 3.82 (3H, s), 3.88 (6H, s), 6.64 (1H, s), 6.95 (2H, s), and 7.07 (1H, br s).

reactant | 6-Methyl-2-(3,4,5-trimethoxyphenylamino)-4(3H)pyrimidinone | 3.63 mmol, 1.0 g | CC1=CC(NC(=N1)NC1=CC(=C(C(=C1)OC)OC)OC)=O | C14H17N3O4
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-methyl-N-(3,4,5-trimethoxyphenyl)pyrimidine-2-amine | ClC1=NC(=NC(=C1)C)NC1=CC(=C(C(=C1)OC)OC)OC | C14H16ClN3O3
